US06229020B1
Synthesis of (E) 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester
Into 30 ml of benzene, 2.0 g (7 mmol) of 3-(2-nitro-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester were dissolved; and, with 1.73 g of iron powder (Koso Chem. Co.) and 2.5 ml of distilled water being added thereto under stirring at room temperature, temperature was raised, so that a reaction was carried out for 1.5 hours at 70° C. After the completion of the reaction, insoluble matters were filtered out, and the filtrate was added to 100 ml of water. The resulting solution was extracted twice with 100 ml of ethyl acetate; and thus obtained ethyl acetate solution was successively washed with water, an aqueous sodium hydrogencarbonate solution, and a saturated aqueous sodium chloride solution. The washed solution was dried on sodium sulfate anhydride; and, after sodium sulfate was filtered out, the filtrate was concentrated. Thus obtained oily product was refined by a silica gel column chromatography (silica gel; developing solvent: ethyl acetate/hexane=1/5), whereby 1.4 g of the aimed compound were obtained as an oily product (yield: 77%).

reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | 3-(2-nitro-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester | 7 mmol, 2.0 g | C(C)OC(C(=CC1=CC=C2C(=C1)C=CC(=C2)[N+](=O)[O-])C)=O | C16H15NO4
catalyst | iron | 1.73 g | [Fe] | Fe
solvent | water | 2.5 ml | O | H2O
product | 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester | 1.4 g | C(C)OC(C(=CC1=CC=C2C(=C1)C=CC(=C2)N)C)=O | C16H17NO2
